US04772600
3-[2-(4-Methyl-1-piperazinyl)-2-oxoethyl]-2-(2-pyridinyl)-3H-imidazo[4,5-b]pyridine fumarate [1:1]
A solution of (2-(2-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (3.00 g, 0.012 mole), 1,1'-carbonyldiimidazole (1.94 g, 0.012 mole), and anhydrous tetrahydrofuran (50 ml) was stirred at room temperature with a stream of nitrogen bubbling through it for 21/2 hours. The nitrogen flow was stopped, N-methylpiperazine (1.2 g, 0.012 mole) added, and the reaction mixture was stoppered and stirred over the weekend. The tetrahydrofuran was evaporated, water (100 ml) added, and the mixture basified with 10% sodium hydroxide solution. The mixture was extracted with ethyl acetate (4×25 ml). The combined organic extracts were washed with water (25 ml), dried over sodium sulfate, and concentrated in vacuo. The residue (1.3 g) was converted to the fumarate salt and crystallized from isopropyl alcohol-isopropyl ether-water, giving 1.4 g (26%). Recrystallization from isopropyl alcohol-isopropyl ether gave 1.2 g of a white solid, mp 212°-213° C.

reactant | 2-(2-pyridinyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.012 mole, 3.00 g | N1=C(C=CC=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C13H10N4O2
reactant | 1,1'-carbonyldiimidazole | 0.012 mole, 1.94 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-methylpiperazine | 0.012 mole, 1.2 g | CN1CCNCC1 | C5H12N2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-[2-(4-Methyl-1-piperazinyl)-2-oxoethyl]-2-(2-pyridinyl)-3H-imidazo[4,5-b]pyridine fumarate | 1.2 g | C(\C=C\C(=O)O)(=O)O.CN1CCN(CC1)C(CN1C(=NC=2C1=NC=CC2)C2=NC=CC=C2)=O | InChI=1S/C18H20N6O.C4H4O4/c1-22-9-11-23(12-10-22)16(25)13-24-17-15(6-4-8-20-17)21-18(24)14-5-2-3-7-19-14;5-3(6)1-2-4(7)8/h2-8H,9-13H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
